US06548694B2
To a solution of 7.38 g (RS)-(4-cyano-phenylamino)-(5-ethoxy-2-fluoro-3-hydroxy-phenyl)-acetic acid ethyl ester described in example 3.5 in 220 ml THF were added 1.68 ml (S)-(+)-3-hydroxy-tetrahydrofurane and 6.48 g triphenylphosphine. The mixture was cooled to 0° C. Subsequently, 3.84 ml of diethyl azodicarboxylate were added. The solution was stirred for 3 hrs at room temperature, then evaporated. The crude product was purified by chromatography on silica gel (cyclohexane/EtOAc) to give 6.53 g of (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-3-[(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid ethyl ester as an off-white solid.

reactant | (RS)-(4-cyano-phenylamino)-(5-ethoxy-2-fluoro-3-hydroxy-phenyl)-acetic acid ethyl ester | 7.38 g | C(C)OC(C(C1=C(C(=CC(=C1)OCC)O)F)NC1=CC=C(C=C1)C#N)=O | C19H19FN2O4
reactant | (S)-(+)-3-hydroxy-tetrahydrofurane | 1.68 ml | O[C@@H]1COCC1 | C4H8O2
reactant | triphenylphosphine | 6.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.84 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-3-[(R)-tetrahydro-furan-3-yloxy]-phenyl]-acetic acid ethyl ester | 6.53 g | C(C)OC(C(C1=C(C(=CC(=C1)OCC)O[C@H]1COCC1)F)NC1=CC=C(C=C1)C#N)=O | C23H25FN2O5
